US07723444B2
Into a separable flask (the capacity: 200 ml) equipped with a condenser and a stirrer, 10.4 g (0.060 moles) of 3-bromophenol, 17.3 g (0.066 moles) of triphenylphosphine, 0.65 g (5 mmole) of nickel chloride and 40 ml of ethylene glycol were placed, and the reaction was allowed to proceed by heating at 160° C. under stirring. After the reaction solution was cooled, 40 ml of pure water was slowly added dropwise. The separated crystals were washed with toluene, separated by filtration and dried, and triphenyl(3-hydroxyphenyl)phosphonium bromide was obtained

reactant | 3-bromophenol | 0.060 moles, 10.4 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | triphenylphosphine | 0.066 moles, 17.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethylene glycol | 40 ml | C(CO)O | C2H6O2
catalyst | nickel chloride | 5 mmole, 0.65 g | [Ni](Cl)Cl
solvent | water | 40 ml | O | H2O
product | triphenyl(3-hydroxyphenyl)phosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](C1=CC(=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H19OP.BrH/c25-20-11-10-18-24(19-20)26(21-12-4-1-5-13-21,22-14-6-2-7-15-22)23-16-8-3-9-17-23;/h1-19H;1H
